US05166385
3-(Methoxy-ethylphospinyl)propionamide
71 g of acrylamide and 120 g of n-propylamine are mixed at room temperature under nitrogen and the mixture is heated to 50° C. 122 g of dimethyl ethanephosphonate are added dropwise to the reaction solution in the course of 30 minutes. The reaction mixture is then stirred for 5 hours at reflux temperature and the solvent (low-boiling solvent such as excess propylamine+N-methyl-N-propylamine) is removed by vacuum distillation. The crude product is obtained in a yield of 175 g with a 94.4% purity, which corresponds to a theoretical yield of 92.3%.

reactant | acrylamide | 71 g | C(C=C)(=O)N | C3H5NO
reactant | n-propylamine | 120 g | C(CC)N | C3H9N
reactant | dimethyl ethanephosphonate | 122 g | C(C)P(OC)(=O)OC | C4H11O3P
product | 3-(Methoxy-ethylphospinyl)propionamide | yield of 92.3% | COP(=O)(CCC(=O)N)CC | C6H14NO3P
